* /Volumes/GoogleDrive/My Drive/D/Documents/2019/EEE4022S/wrist-zapper/simulation/stim/stim_controller_v7.1.asc
V1 N004 0 PULSE(2 1.2 10000)
R1 N005 N004 1k
R2 0 N006 2k
Q1 N002 N005 N006 0 2N5550
V2 N001 0 170
R3 N003 0 1k
M1 N003 N002 N001 N001 IRF9640
M2 N003 N002 N001 N001 IRF9640
M3 N003 N002 N001 N001 IRF9640
M4 N003 N002 N001 N001 IRF9640
M5 N002 N002 N001 N001 IRF9640
.model NPN NPN
.model PNP PNP
.lib /Users/Devin/Library/Application Support/LTspice/lib/cmp/standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/Devin/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran 10m
.backanno
.end
