* /Volumes/GoogleDrive/My Drive/D/Documents/2019/EEE4022S/wrist-zapper/simulation/stim/stim_controller_v7.1.asc
V1 N004 0 PULSE(1 1.2 10000)
R1 N005 N004 1k
R2 0 N006 1k
Q1 N002 N005 N006 0 2N5550
V2 N001 0 170
R3 N003 0 2k
M3 N003 N002 N001 N001 IRF9640
M4 N003 N002 N001 N001 IRF9640
M5 N002 N002 N001 N001 IRF9640
.model NPN NPN
.model PNP PNP
.lib /Users/Devin/Library/Application Support/LTspice/lib/cmp/standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/Devin/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran 10m
.backanno
.end
